US08133886B2
Step 15.4: 6-(2-Methoxymethyl-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid methyl ester
760 μl (4.12 mMol) of a 5.4 M solution of MeONa in MeOH are added to a solution of 1.28 g (3.43 mMol) 6-(2-bromomethyl-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid methyl ester in 70 ml MeOH. After 22 h stirring at rt, the mixture is diluted with EtOAc and water, the aq. layer separated off and extracted twice with EtOAc. The organic layers are washed with water and brine, dried (Na2SO4) and concentrated. Chromatography (Combi Flash; hexane/EtOAc 19: 1→1:3) gives the title compound: MS: [M+1]+=325; 1H NMR (CDCl3): δ ppm 9.06 (d, 1H), 8.66 (d, 1H), 8.24 (d, 1H), 8.03 (d, 1H), 7.70 (s, 1H), 7.59 (t, 1H), 7.46 (d, 1H), 6.82 (d, 1H), 4.58 (s, H2C), 4.06 (s, H3C), 3.53 (s, H3C).

reactant | MeONa | CO[Na]
reactant | 6-(2-bromomethyl-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid methyl ester | 3.43 mMol, 1.28 g | COC(=O)C1=CC=CC2=CC(=CC=C12)OC1=NC(=NC=C1)CBr | C17H13BrN2O3
solvent | MeOH | CO | CH4O
solvent | MeOH | 70 ml | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 6-(2-Methoxymethyl-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid methyl ester | COC(=O)C1=CC=CC2=CC(=CC=C12)OC1=NC(=NC=C1)COC | C18H16N2O4
